US04471116
To a stirred solution of 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl) piperazine (24 g) and 14.5 g of 4-(3-phthalimidopropyloxy)phenol in dimethylsulfoxide (500 ml) at 50° under nitrogen was added sodium hydroxide (1.9 g) in water (15 ml), and the solution was stirred for 5 hours 55°-60°. After standing at room temperature overnight, the reaction was poured into water (1 L) and the oil was extracted using ethyl acetate. The extract dried over sodium sulfate was evaporated in vacuo and the residual material was dissolved in acetonitrile. The supernatant was decanted from some insoluble material and then hydrogen chloride was bubbled into the solution to precipitate the product as the dihydrochloride salt. Methanol was added to the mixture to redissolve the salt and the solution was concentrated until a solid started to precipitate. The solid was collected by filtration to give 2 g of 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-[2 -[4-(3-phthalimidopropyloxy)phenoxy]ethyl]piperazine as its di-hydrochloride salt, mp 233°-246°. The filtrate was evaporated and the resulting oil was crystallized from methanol yielding an additional 8.3 g of the same material, mp 225°-240°

reactant | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl) piperazine | 24 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCCl | C21H25Cl2N3S
reactant | 4-(3-phthalimidopropyloxy)phenol | 14.5 g | C1(C=2C(C(N1CCCOC1=CC=C(C=C1)O)=O)=CC=CC2)=O | C17H15NO4
reactant | sodium hydroxide | 1.9 g | [OH-].[Na+]
solvent | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
solvent | water | 15 ml | O | H2O
solvent | water | 1 L | O | H2O
product | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-[2 -[4-(3-phthalimidopropyloxy)phenoxy]ethyl]piperazine | 2 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCOC1=CC=C(C=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C38H39ClN4O4S
